US05416231
2-(2-hydroxyethyl)cyclopropylmethyl t-butyldimethylsilyl ether (15.0 g, 65 mmol) was dissolved in N,N-dimethylformamide (120 ml), and triphenylphosphine (17.3 g, 66 mmol) was added thereto at room temperature. Twenty minutes later, the mixture was cooled to -20° C. Bromine (10.5 g, 66 mmol) was added thereto over a period of 5 minutes, and the temperature was gradually raised to 0° C. The mixture was poured into a saturated sodium hydrogen carbonate aqueous solution, and the product was extracted with ethyl ether. Then, it was dried over anhydrous magnesium sulfate and purified by silica gel column chromatography to obtain 2-(2-bromoethyl)cyclopropylmethyl t-butyldimethylsilyl ether (2.7 g).

reactant | 2-(2-hydroxyethyl)cyclopropylmethyl t-butyldimethylsilyl ether | 65 mmol, 15.0 g | [Si](C)(C)(C(C)(C)C)OCC1C(C1)CCO | C12H26O2Si
reactant | triphenylphosphine | 66 mmol, 17.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Bromine | 66 mmol, 10.5 g | BrBr | Br2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 2-(2-bromoethyl)cyclopropylmethyl t-butyldimethylsilyl ether | 2.7 g | [Si](C)(C)(C(C)(C)C)OCC1C(C1)CCBr | C12H25BrOSi
